US06765008B1
4-(1-Ethyl-butyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine
A mixture of two isomers, 4-(1-ethyl-butenyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine and 4-(1-n-propyl-propenyl)-2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine (67 mg, 0.185 mmol) in ethyl acetate (18 ml) and 10% Pd/C (38 mg) was hydrogenated at 50 psi for 15 hours. The mixture was filtered through Celite, a trademark for a commercially available diatomaceous earth filtering material. The filtrate was washed with brine, dried and concentrated to give 119 mg of oil. The oil was purified through silica gel column chromatography using 7% ethyl acetate in hexane as eluent to give 31 mg (46%) of the title compound as off-white crystals, mp 100-102° C.

reactant | 4-(1-ethyl-butenyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine | C(C)C(=CCC)C=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C | C24H31N3
reactant | 4-(1-n-propyl-propenyl)-2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.185 mmol, 67 mg | C(CC)C(=CC)C=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C | C24H31N3
solvent | ethyl acetate | 18 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 38 mg | [Pd] | Pd
product | 4-(1-Ethyl-butyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 119 mg | C(C)C(CCC)C=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C | C24H33N3
